US07705042B2
b) Carbonic acid tert-butyl ester 2-{4-[3-(4-methyl-piperidin-1-yl)-4-nitro-phenyl]-piperazin-1-yl}-ethyl ester
A solution of 320 mg (0.919 mmol) of 2-{4-[3-(4-methyl-piperidin-1-yl)-4-nitro-phenyl]-piperazin-1-yl}-ethanol (as prepared in the previous step), 240 mg (1.10 mmol) of di-t-butyl dicarbonate and 9.0 mg (0.074 mmol) of 4-(dimethylamino)pyridine in 8 mL of THF was stirred at 50° C. for 0.5 h and then concentrated in vacuo. Chromatography of the resulting oil on a 20-g silica SPE column with 0-10% EtOAc-dichloromethane afforded 342 mg (83%) of the title compound as a yellow resin: Mass spectrum (ESI, m/z): Calcd. for C23H36N4O5, 449.3 (M+H), found 449.1.

reactant | 2-{4-[3-(4-methyl-piperidin-1-yl)-4-nitro-phenyl]-piperazin-1-yl}-ethanol | 0.919 mmol, 320 mg | CC1CCN(CC1)C=1C=C(C=CC1[N+](=O)[O-])N1CCN(CC1)CCO | C18H28N4O3
reactant | di-t-butyl dicarbonate | 1.10 mmol, 240 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-(dimethylamino)pyridine | 0.074 mmol, 9.0 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | Carbonic acid tert-butyl ester 2-{4-[3-(4-methyl-piperidin-1-yl)-4-nitro-phenyl]-piperazin-1-yl}-ethyl ester | 342 mg, 83% | CC1CCN(CC1)C=1C=C(C=CC1[N+](=O)[O-])N1CCN(CC1)CCOC(OC(C)(C)C)=O | C23H36N4O5
